US07238716B2
To a mixture of 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetonitrile (0.20 g), tetrahydrofuran (0.5 mL) and ethanol (1 mL) was added a 2N aqueous sodium hydroxide solution (1.5 mL) and the mixture was stirred with heating under reflux for 10 hrs. 1N Hydrochloric acid (3 mL) and water were added to the reaction mixture, the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (0.08 g, 38%) of 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 144-145° C.

reactant | 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetonitrile | 0.20 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CC#N)C=C1 | C25H21N3O3
reactant | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 2N, 1.5 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 3 mL | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid | 0.08 g, 38% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CC(=O)O)C=C1 | C25H22N2O5
